US07547710B2
To a solution of tert-butyl {[6-hydroxy-2-isobutyl-4-(4-methylphenyl)quinolin-3-yl]methyl}carbamate (1.5 g, 3.6 mmol) in N,N-dimethylformamide (10 ml) was added sodium hydride (60% in oil, 0.21 g, 5.4 mmol) under ice-cooling, and the mixture was stirred for 10 min. To the reaction mixture was added N-phenylbis(trifluoromethanesulfonimide) (1.9 g, 5.4 mmol), and the mixture was stirred at room temperature for 30 min. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was crystallized from diisopropyl ether to give 3{[(tert-butoxycarbonyl) amino]methyl}-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl trifluoromethanesulfonate (1.5 g, yield 75%) as pale-yellow crystals.

reactant | tert-butyl {[6-hydroxy-2-isobutyl-4-(4-methylphenyl)quinolin-3-yl]methyl}carbamate | 3.6 mmol, 1.5 g | OC=1C=C2C(=C(C(=NC2=CC1)CC(C)C)CNC(OC(C)(C)C)=O)C1=CC=C(C=C1)C | C26H32N2O3
reactant | sodium hydride | 5.4 mmol, 0.21 g | [H-].[Na+]
reactant | N-phenylbis(trifluoromethanesulfonimide) | 5.4 mmol, 1.9 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3{[(tert-butoxycarbonyl) amino]methyl}-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl trifluoromethanesulfonate | 1.5 g, yield 75% | FC(S(=O)(=O)OC=1C=C2C(=C(C(=NC2=CC1)CC(C)C)CNC(=O)OC(C)(C)C)C1=CC=C(C=C1)C)(F)F | C27H31F3N2O5S
